US04891358
The title compound of this example: DPPA (12.38 g, 45 mmol) was added to a cooled solution (0° C.) of Boc-Ala-OH (3.2 g, 45 mmol) and DIEA (7.8 mL, 45 mmol). The mixture was stirred at 0° C. for 15 min. The pentapeptide from paragraph (d), HCl.H-Gln-Ser(Bzl)-Gly-Leu-Gly-OCH3 (9.0 g, 15 mmol), was added to the mixture. The mixture was stirred for 18 h while the temperature of the mixture gradually came to room temperature. The mixture was concentrated to dryness. The resultant solid was triturated with EtOAc, collected on a filter, and washed with Et2O and then with hexane. The collected solid was suspended in Et2O and the suspension stirred vigorously for 1 h. The solid was collected on a filter and dried to give Boc-Ala-Gln-Ser(Bzl)-Gly-Leu-Gly-OCH3 (10.94 g). The latter compound (6.0 g, 8.15 mmol) was suspended in dioxane (150 mL) and H2 0 (200 mL). The suspension was stirred and cooled to 0° C. A solution of NaOH (425 mg, 10.6 mmol) was added dropwise to the cooled suspension. The mixture was stirred at room temperature until it became clear (2 h). The mixture was rendered acidic (pH=4) by the addition of acetic acid and then concentrated under reduced pressure (after addition of isopropanol to prevent foaming). The residue was dissolved in the minimum amount of butanol/H2O/acetic acid (4:5:1). The solution was passed through a column of Sephadex (tradename for a brand of cross linked chains of organic compounds derived from dextran). The pure fractions were combined to give the desired hexapeptide i.e. the title compound of this example, as the HCl addition salt (4.90 g).

reactant | DPPA | 45 mmol, 12.38 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Boc-Ala-OH | 45 mmol, 3.2 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | DIEA | 45 mmol, 7.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | Cl | ClH
reactant | H-Gln-Ser(Bzl)-Gly-Leu-Gly-OCH3 | 15 mmol, 9.0 g | N[C@@H](CCC(N)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OC | C26H40N6O8
product | Boc-Ala-Gln-Ser(Bzl)-Gly-Leu-Gly-OCH3 | 10.94 g | N([C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OC)C(=O)OC(C)(C)C | C34H53N7O11
